US05914328
20a. 3-pyridyl diethylcarbamate
To a refluxing solution of 3-pyridinol (9.7 g, 0.10 mol) and triethylamine (17.0 mL, 0.12 mol) in anhydrous benzene (300 mL) was slowly added a solution of N,N-dimethylcarbamyl chloride (14.4 mL, 0.11 mol) in anhydrous benzene (50 mL). After heating at reflux for 12 hours, the resultant mixture was filtered, and the salt was washed with benzene (3×10 mL). The filtrate was concentrated and distilled under reduced pressure to provide 18.4 g (95% yield) of the title compound as a light yellow oil (lit: bp 91-93° C./3.5 mmHg, Millner, O. E, Jr.; Stanley, J. W; Purcell, W. P. J. Med. Chem. 1974,17,13). TLC Rf 0.57(10:1 CHCl3 /MeOH). MS (DCI/NH3) m/e 212 (M+NH4)+, 195 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.44 (d, J=0.9 Hz, 1H, ArH), 8.43 (dd, J=4.8, 1.8 Hz, 1H, ArH), 7.53 (ddd, J=7.5, 1.8, 0.9 Hz, 1H, ArH), 7.30 (dd, J=7.5, 4.8 Hz, 1H, ArH), 3.43 (q, J=7.2 Hz, 2H, NCH2), 3.40 (q, J=7.2 Hz, 2H, NCH2), 1.27 (t, J=7.2 Hz, 3H, CH3), 1.21 (t, J =7.2 Hz, 3H, CH3).

reactant | 3-pyridinol | 0.10 mol, 9.7 g | N1=CC(=CC=C1)O | C5H5NO
reactant | triethylamine | 0.12 mol, 17.0 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylcarbamyl chloride | 0.11 mol, 14.4 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | benzene | 300 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 3-pyridyl diethylcarbamate | 18.4 g, 95% yield | C(C)N(C(OC=1C=NC=CC1)=O)CC | C10H14N2O2
